US07071175B1
Triethylamine (0.234 mL, 1.68 mmol) was added to a solution of 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-ylmethyl)-acrylic acid ethyl ester (0.68 g, 1.61 mmol) in thioacetic acid (3 mL) at 0° C. The mixture was stirred at room temperature for 16 h. Ethyl acetate was added and the organic phase was washed with water, saturated NaHCO3 and brine and dried. The crude product was purified by flash chromatography (toluene/ethyl acetate, 3:1→1:2) to give pure 2-acetylsulfanylmethyl-3-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-yl)-propionic acid ethyl ester (489 mg, 61%) and slightly impure 2-acetylsulfanylmethyl-3-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-yl)-propionic acid ethyl ester (0.34 g, 43%).

reactant | Triethylamine | 1.68 mmol, 0.234 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-ylmethyl)-acrylic acid ethyl ester | 1.61 mmol, 0.68 g | C(C)OC(C(=C)CC=1C=NC(=C(C1)C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C22H32N2O6
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | thioacetic acid | 3 mL | C(C)(=S)O | C2H4OS
product | 2-acetylsulfanylmethyl-3-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-yl)-propionic acid ethyl ester | 0.34 g, 43% | C(C)OC(C(CC=1C=NC(=C(C1)C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CSC(C)=O)=O | C24H36N2O7S
